US07122683B2
tert-butyl (3S)-3-(cyclopentylamino)pyrrolidine-1-carboxylate
Cyclopentanone (12.7 ml, 143 mmol) was added to tert-butyl (3S)-3-aminopyrrolidine-1-carboxylate (26.6 g, 143 mmol) in a mixture methanol:toluene 3:1 (600 ml:200 ml) and the reaction mixture was stirred at room temperature for 1.5 hours under nitrogen. The mixture was then evaporated to 50 ml, azeotroped three times with methanol:toluene 3:1 (600 ml:200 ml) and concentrated in vacuo. The reaction mixture was taken up in methanol (250 ml), cooled down to 0° C. and sodium borohydride (7.5 g, 200.2 mmol) was added portionwise. After completion of the reaction, water (50 ml) was added and the solvent was evaporated. The residue was diluted with more water (150 ml) and extracted three times with dichloromethane (250 ml). The organic phases were combined, dried over magnesium sulfate, and concentrated in vacuo to provide the title compound as a gum, 36.1 g (99.4%).

reactant | Cyclopentanone | 143 mmol, 12.7 ml | C1(CCCC1)=O | C5H8O
reactant | tert-butyl (3S)-3-aminopyrrolidine-1-carboxylate | 143 mmol, 26.6 g | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | methanol toluene | 600 ml | CO.C1(=CC=CC=C1)C
reactant | sodium borohydride | 200.2 mmol, 7.5 g | [BH4-].[Na+]
solvent | water | 50 ml | O | H2O
product | tert-butyl (3S)-3-(cyclopentylamino)pyrrolidine-1-carboxylate | C1(CCCC1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C14H26N2O2
